US04414074
A new process for the production of very pure 4,4'-diisocyanatodiphenylmethane is disclosed, in which diisocyanatodiphenylmethane isomers which are obtained by distillation from the phosgenation products of aniline/formaldehyde condensates are initially freed from 2,2'- and 2,4'-isomers under certain distillation conditions and are then further worked-up by distillation, in that in a first final stage, from 50 to 90%, by weight of the diisocyanate freed from 2,2'- and 2,4'-isomers is isolated as the head product in the form of pure 4,4'-diisocyanatodiphenylmethane and in a second final stage, another quantity of pure 4,4'-diisocyanatodiphenylmethane is separated as the head product from the distillation of the sump of the first final stage.

reactant | 4,4'-diisocyanatodiphenylmethane | C1=CC(=CC=C1CC2=CC=C(C=C2)N=C=O)N=C=O | C15H10N2O2
reactant | diisocyanatodiphenylmethane | N(=C=O)C(C1=CC=CC=C1)(C1=CC=CC=C1)N=C=O | C15H10N2O2
product | aniline formaldehyde | NC1=CC=CC=C1.C=O | InChI=1S/C6H7N.CH2O/c7-6-4-2-1-3-5-6;1-2/h1-5H,7H2;1H2
